US06372740B1
A mixture of ethyl 3,4-dihydro-4-oxo-2-phenylpyrimidine-5-carboxylate (9.8 g), triethylamine (10.1 g) and dimethylformamide (20 ml) is added dropwise a solution of p-toluenesulfonyl chloride (8.4 g) in dimethylformamide (20 ml) at room temperature, and the mixture is stirred at the same temperature for 10 minutes. To the reaction mixture is added dropwise a solution of propylamine (2.8 g) in dimethylformamide (20 ml), and the mixture is stirred at room temperature for one hour. To the reaction mixture are added chloroform and water, and the chloroform layer is separated, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give crude ethyl 2-phenyl-4-propylaminopyrimidine-5-carboxylate (11 g).

reactant | ethyl 3,4-dihydro-4-oxo-2-phenylpyrimidine-5-carboxylate | 9.8 g | O=C1NC(=NC=C1C(=O)OCC)C1=CC=CC=C1 | C13H12N2O3
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 8.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | propylamine | 2.8 g | C(CC)N | C3H9N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-phenyl-4-propylaminopyrimidine-5-carboxylate | 11 g | C1(=CC=CC=C1)C1=NC=C(C(=N1)NCCC)C(=O)OCC | C16H19N3O2
